US06995144B2
After adding 10 ml of 4N hydrogen chloride/ethyl acetate to 273 mg of 1-(tert-butoxycarbonyl)-4-cyano-4-(2-methylphenoxymethyl)piperidine, the mixture was stirred for 6 hours at room temperature. The solvent was distilled off under reduced pressure to obtain 336 mg of 4-cyano-4-(2-methylphenoxymethyl)piperidine hydrochloride.

reactant | 1-(tert-butoxycarbonyl)-4-cyano-4-(2-methylphenoxymethyl)piperidine | 273 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(COC1=C(C=CC=C1)C)C#N | C19H26N2O3
reactant | hydrogen chloride ethyl acetate | 4N, 10 ml | Cl.C(C)(=O)OCC
product | 4-cyano-4-(2-methylphenoxymethyl)piperidine hydrochloride | 336 mg | Cl.C(#N)C1(CCNCC1)COC1=C(C=CC=C1)C | InChI=1S/C14H18N2O.ClH/c1-12-4-2-3-5-13(12)17-11-14(10-15)6-8-16-9-7-14;/h2-5,16H,6-9,11H2,1H3;1H
